US07649002B2
Methyl (2E)-3-(2,4-difluorophenyl)acrylate
To a solution of 2,4-difluorocinnamic acid (20 g, 135 mmol) in N,N-dimethylformamide (500 mL) at room temperature under dry nitrogen was added potassium carbonate (90 g, 675 mmol) then iodomethane (21 mL, 337.5 mmol). The resulting mixture was stirred at room temperature under dry nitrogen for 7 hours before being quenched by the addition of water (1 L) and extracted with diethyl ether (3×200 mL). The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was purified by an automated flash column chromatography system (CombiFlash® Separation System Sg 100c by Isco) using a pre-packed column (Redisep™ Disposable Columns for Flash Chromatography by Isco, 120 g column) eluting with 2% ethyl acetate in pentane increasing polarity in a linear gradient to 10% ethyl acetate in pentane over 1 hour to afford the title compound as a white solid (20.5 g, 77%). 1H NMR (400 MHz, CDCl3) δH 3.80 (3H, s), 6.50 (1H, d), 6.85 (1H, m), 7.50 (1H, m), 7.75 (1H, d); LRMS (APCI) 216 [MNH4+], 199 [MH+].

reactant | 2,4-difluorocinnamic acid | 135 mmol, 20 g | FC1=C(C=CC(=O)O)C=CC(=C1)F | C9H6F2O2
reactant | potassium carbonate | 675 mmol, 90 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 337.5 mmol, 21 mL | IC | CH3I
solvent | N,N-dimethylformamide | 500 mL | CN(C=O)C | C3H7NO
product | Methyl (2E)-3-(2,4-difluorophenyl)acrylate | 20.5 g, 77% | FC1=C(C=CC(=C1)F)/C=C/C(=O)OC | C10H8F2O2
